US04728458
After adding 17 g of nonanic acid chloride to 200 ml of pyridine dissolved with 47 g of hydroquinone, the mixture was heated for 2 hours. Following neutralization of hydrogen chloride, the crude of 4-octylcarbonyloxyphenol was obtained by extracting with chloroform. The crude compound was purified by passing through silica-gel column to obtain pure 4-octylcarbonyloxyphenol (J). (I) was reacted with (J) to obtain the compound (G) same procedure as example 14. (G) was a smectic liquid crystal compound having the SC* phase. The phase transition points of (G) were shown in table 4.

reactant | nonanic acid chloride | 17 g | C(CCCCCCCC)(=O)Cl | C9H17ClO
reactant | hydroquinone | 47 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | hydrogen chloride | Cl | ClH
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 4-octylcarbonyloxyphenol | C(CCCCCCC)C(=O)OC1=CC=C(C=C1)O | C15H22O3
